US07855290B2
4-(3-Fluoro-4-{[1-(4-fluorophenylcarbamoyl)cyclopropanecarbonyl]amino}phenoxy)pyridine-2-carboxamide
N-(4-Fluorophenyl)-N′-(2-fluoro-4-hydroxyphenyl)cyclopropane-1,1-dicarboxamide (665 mg) was dissolved in N-methylpyrrolidone (10 ml) under a nitrogen atmosphere, and potassium tert-butoxide (247 mg) was added at room temperature, followed by stirring for 1.5 hr. After 4-chloropicolylamide (313 mg) was added, the reaction mixture was stirred under a nitrogen atmosphere at 110° C. overnight, then at 120° C. for 8 hr. The reaction mixture was allowed to cool down to room temperature. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate (twice) and brine, and dried over anhydrous sodium sulfate. The solvent was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent; heptane:ethyl acetate=1:2, 1:3, then 1:4). Fractions containing the target compound were concentrated under reduced pressure. After ethyl acetate (3 ml)-heptane (6 ml) was added, crystals were allowed to precipitate under sonication. The solvent was removed and the crystals were dried under reduced pressure to provide the titled compound as pale brown crystals (261 mg, 29%).

reactant | N-(4-Fluorophenyl)-N′-(2-fluoro-4-hydroxyphenyl)cyclopropane-1,1-dicarboxamide | 665 mg | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)NC1=C(C=C(C=C1)O)F | C17H14F2N2O3
reactant | potassium tert-butoxide | 247 mg | CC(C)([O-])C.[K+]
reactant | 4-chloropicolylamide | 313 mg | ClC1=CC(=NC=C1)C[NH-]
solvent | N-methylpyrrolidone | 10 ml | CN1C(CCC1)=O | C5H9NO
product | 4-(3-Fluoro-4-{[1-(4-fluorophenylcarbamoyl)cyclopropanecarbonyl]amino}phenoxy)pyridine-2-carboxamide | 261 mg, 29% | FC=1C=C(OC2=CC(=NC=C2)C(=O)N)C=CC1NC(=O)C1(CC1)C(NC1=CC=C(C=C1)F)=O | C23H18F2N4O4
